US08614239B2
Preparation of Intermediate 6-(4-Bromo-2-fluoro-phenyl)-8-cyclopropanesulfonyl-4,5-difluoro-2-methyl-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one (I-26a)
Intermediate I-26a was prepared from 6-(4-bromo-2-fluoro-phenyl)-4,5-difluoro-2-methyl-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one (I-17a: 200 mg, 0.52 mmol), cyclopropanesulfonyl chloride (111 mg, 0.781 mmol) and NaH (31.2 mg, 0.781 mmol) using procedures analogous to those described above for Intermediate I-19a to afford 110 mg of the product (42.1% yield). H1NMR (CDCl3, 300 MHz): δ 7.52-7.39 (m, 3H), 3.35-3.24 (m, 1H), 2.72 (s, 3H), 1.75-1.60 (m, 2H), 1.35-1.25 (m, 2H).

reactant | 6-(4-bromo-2-fluoro-phenyl)-4,5-difluoro-2-methyl-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one | 0.52 mmol, 200 mg | BrC1=CC(=C(C=C1)N1C(NC2=C1C(=C(C=1N=C(OC12)C)F)F)=O)F | C15H7BrF3N3O2
reactant | cyclopropanesulfonyl chloride | 0.781 mmol, 111 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | NaH | 0.781 mmol, 31.2 mg | [H-].[Na+]
product | 6-(4-Bromo-2-fluoro-phenyl)-8-cyclopropanesulfonyl-4,5-difluoro-2-methyl-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one | 110 mg, 42.1% yield | BrC1=CC(=C(C=C1)N1C(N(C2=C1C(=C(C=1N=C(OC12)C)F)F)S(=O)(=O)C1CC1)=O)F | C18H11BrF3N3O4S
